US06579879B2
Step B: 6-(5-Chloro-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-2H-pyridazin-3-one.
A mixture of 3-methoxy-6-(5-chloro-3-methyl-benzofuran-2-sulfonyl)-pyridazine (22.2 mmol, 7.5 g), conc. HCl (5 mL), and dioxane (50 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (20 mL) was added to the residue. The resulting precipitate was collected and crystallized from ethanol to obtain the desired product: 6-(5-chloro-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-2H-pyridazin-3-one (89%, 6.42 g).

reactant | 3-methoxy-6-(5-chloro-3-methyl-benzofuran-2-sulfonyl)-pyridazine | 22.2 mmol, 7.5 g | COC=1N=NC(=CC1)S(=O)(=O)C=1OC2=C(C1C)C=C(C=C2)Cl | C14H11ClN2O4S
reactant | HCl | 5 mL | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 6-(5-Chloro-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin 2H-pyridazin-3-one | ClC=1C=CC2=C(C(=C(O2)S(=O)(=O)C2=CC=CNN2)C)C1.N=1NC(C=CC1)=O | InChI=1S/C13H11ClN2O3S.C4H4N2O/c1-8-10-7-9(14)4-5-11(10)19-13(8)20(17,18)12-3-2-6-15-16-12;7-4-2-1-3-5-6-4/h2-7,15-16H,1H3;1-3H,(H,6,7)
